US09290468B2
Step 5: benzyl 4-azido-5-benzyloxy-3-fluoro-2-((2-fluorophenyl)amino)benzoate
To a solution of benzyl 5-benzyloxy-3,4-difluoro-2-((2-fluoro-phenyl)amino)benzoate (21.42 g, 46.22 mmol) in DMF (150 mL) was added NaN3 (3.61 g, 55.46 mmol). The mixture was stirred at 90° C. for 3 h. Then water (300 mL) was added. The solution was extracted with ethyl acetate (100 mL×3). The combined organic extracts were washed with water (100 mL) and brine (100 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate, 50:1, v/v) and gave the desired product (pale yellow solid, 14.63 g, 65% yield). 1H NMR (400 MHz, CDCl3): δ 8.45 (s, 1H), 7.49 (s, 1H), 7.39 (m, 10H), 7.07 (m, 1H), 7.04 (m, 1H), 6.90 (m, 1H), 6.83 (m, 1H), 5.31 (s, 2H), 5.13 (s, 2H).

reactant | benzyl 5-benzyloxy-3,4-difluoro-2-((2-fluoro-phenyl)amino)benzoate | 46.22 mmol, 21.42 g | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C(=O)OCC2=CC=CC=C2)C1)NC1=C(C=CC=C1)F)F)F | C27H20F3NO3
reactant | NaN3 | 55.46 mmol, 3.61 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 300 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | benzyl 4-azido-5-benzyloxy-3-fluoro-2-((2-fluorophenyl)amino)benzoate | 14.63 g, 65% yield | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C27H20F2N4O3
